US04906768
A reactor was charged with 0.1 mole of 3-allyloxyiminobutanol, 0.12 mole of benzyl chloride and 2 moles of THF. The mixture was cooled to 0° C., and 0.11 mole of sodium hydroxide was added little by little. The temperature of the mixture was returned to room temperature, and it was stirred for 2 hours. After the reaction, the product was isolated in a customary manner to give 3-allyloxyiminobutyl benzyl ether in a yield of 95 mole %.

reactant | 3-allyloxyiminobutanol | 0.1 mole | C(C=C)ON=C(CCO)C | C7H13NO2
reactant | benzyl chloride | 0.12 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | THF | 2 moles | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 0.11 mole | [OH-].[Na+]
product | 3-allyloxyiminobutyl benzyl ether | C(C1=CC=CC=C1)OCCC(C)=NOCC=C | C14H19NO2
